US05006549
3-Methyl-4-hydroxy-7-tert-butylbenzofuran-2-carboxylic acid (8)
Ethyl 3-methyl-4-hydroxy-7-tert-butylbenzofuran (0.405 g, 1.47 mmol) was saponified in a solution of KOH (0.247 g, 4.41 mmol) in refluxing water (10 mL) for two hours. Acidification of the cooled mixture led to precipitation of the product. 3-Methyl-4-hydroxy-7-tert-butylbenzofuran-2-carboxylic acid, compound 8, was collected by filtration and vacuum dried. This material was decarboxylated without further purification, mp 219°-222° C.; 1H NMR (DMSO-d6) d 1.38 (9H, s), 2.64 (3H, s), 6.55 (1H, d, J=8 Hz), 7.07 (1H, d, J=8 Hz), 9.66 (1H, s).

reactant | Ethyl 3-methyl-4-hydroxy-7-tert-butylbenzofuran | 1.47 mmol, 0.405 g | C(C)C=1OC2=C(C1C)C(=CC=C2C(C)(C)C)O | C15H20O2
reactant | KOH | 4.41 mmol, 0.247 g | [OH-].[K+]
reactant | water | 10 mL | O | H2O
product | 3-Methyl-4-hydroxy-7-tert-butylbenzofuran-2-carboxylic acid | CC1=C(OC2=C1C(=CC=C2C(C)(C)C)O)C(=O)O | C14H16O4
